US08865736B2
2-Methyl-6-phenoxy-benzothiazole
To an ice-cold solution of N-(4-phenoxy-phenyl)-thioacetamide (0.78 g, 3.20 mmol) in 10 ml of DCM was added Br2 (0.32 ml, 6.40 mmol) dropwise. The reaction mixture was heated at 45° C. for 2 h. After the completion of the reaction (TLC monitoring), the reaction mixture was evaporated under reduced pressure. The residue was basified with NH4OH solution and extracted with ethyl acetate. The combined organics were, dried, (Na2SO4), filtered and concentrated. The residue was purified by column chromatography on silica (230-400 M) using ethyl acetate/hexane (3:97) as the eluent to provide the title compound (0.08 g, 10.3%).

reactant | N-(4-phenoxy-phenyl)-thioacetamide | 3.20 mmol, 0.78 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(C)=S | C14H13NOS
reactant | Br2 | 6.40 mmol, 0.32 ml | BrBr | Br2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-6-phenoxy-benzothiazole | 0.08 g, 10.3% | CC=1SC2=C(N1)C=CC(=C2)OC2=CC=CC=C2 | C14H11NOS
